US04460587
A mixture of 23.44 g of 4-methyl-2-(2-nitrobenzyl)imidazole, 2.34 g of 10% palladium on charcoal and 234 ml of ethanol is hydrogenated at 42 psi (3 atmospheres) at room temperature for 4 hours. The catalyst is filtered and the filtrates are evaporated to dryness to give 4-methyl-2-(2-aminobenzyl)imidazole showing signals in the NMR spectrum at δ2.09, 3.78, 6.08.

reactant | 4-methyl-2-(2-nitrobenzyl)imidazole | 23.44 g | CC=1N=C(NC1)CC1=C(C=CC=C1)[N+](=O)[O-] | C11H11N3O2
catalyst | palladium on charcoal | 2.34 g | [Pd] | Pd
solvent | ethanol | 234 ml | C(C)O | C2H6O
product | 4-methyl-2-(2-aminobenzyl)imidazole | CC=1N=C(NC1)CC1=C(C=CC=C1)N | C11H13N3
